US05086055
1-(3,4,5-Trimethoxyphenyl)piperazine
A solution of 44.3 g (0.25 mol) of bis(2-chloroethyl)amine hydrochloride and 45.5 g (0.25 mol) of 3,4,5-trimethoxyaniline in 550 mL of absolute ethanol was heated at reflux for 16 h under a nitrogen atmosphere. The mixture was cooled and 50.0 g (0.36 mol) of potassium carbonate was added and heating was continued for 16 h. The hot mixture was filtered, the filtrate was concentrated under reduced pressure and the residue was triturated with ethyl acetate. The collected solid was re-crystallized from 2-propanol/methanol. The solid was dissolved in 5.9N sodium hydroxide and the solution was continuously extracted with chloroform for 5 h. The organic layer was dried (MgSO4), concentrated under reduced pressure, and the residue was triturated with cyclohexane/petroleum ether (30°-60°) to give 23.6 g (38%) of white solid, mp 73°-77° C.

reactant | bis(2-chloroethyl)amine hydrochloride | 0.25 mol, 44.3 g | Cl.ClCCNCCCl
reactant | 3,4,5-trimethoxyaniline | 0.25 mol, 45.5 g | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
reactant | potassium carbonate | 0.36 mol, 50.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 550 mL | C(C)O | C2H6O
product | 1-(3,4,5-Trimethoxyphenyl)piperazine | 23.6 g, 38% | COC=1C=C(C=C(C1OC)OC)N1CCNCC1 | C13H20N2O3
